US08193356B2
In accordance with a process described in JP-61-246183A, 4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one was synthesized. To a suspension of the synthesized compound (893 mg, 3.7 mmol) in DMF (16 mL) was added sodium hydride (purity of about 60%, 360 mg, 9.0 mmol, 2.4 eq.), and the mixture was stirred until no more hydrogen was generated. Then, 4-trifluoromethoxyphenylacetyl chloride (1.2 eq.) was added thereto, and the mixture was stirred at a room temperature for 3 hours. To the mixture was added water and further added a saturated sodium hydrogencarbonate solution, and the resulting mixture was subjected to extraction with dichloromethane. The extract was dried over anhydrous magnesium sulfate, and the solvent was distilled off from the extract. The resulting residue was purified by a flash column chromatography to give 4-hydroxy-1-phenyl-3-(4-trifluoromethoxyphenylacetyl)-1,8-naphthyridin-2(1H)-one (383 mg, yield 23%).

reactant | 4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one | OC1=CC(N(C2=NC=CC=C12)C1=CC=CC=C1)=O | C14H10N2O2
reactant | sodium hydride | 9.0 mmol, 360 mg, 2.4 eq. | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-trifluoromethoxyphenylacetyl chloride | 1.2 eq. | FC(OC1=CC=C(C=C1)CC(=O)Cl)(F)F | C9H6ClF3O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-hydroxy-1-phenyl-3-(4-trifluoromethoxyphenylacetyl)-1,8-naphthyridin-2(1H)-one | 383 mg, yield 23% | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)C(CC1=CC=C(C=C1)OC(F)(F)F)=O | C23H15F3N2O4
